US08097617B2
Step 2.2: 6-Bromo-imidazo[1,2-a]pyridine-7-carbonitrile
A mixture of 2-amino-5-bromo-isonicotinonitrile (5.0 g, 25.3 mmol), NaHCO3 (3.6 g, 42.9 mmol) and chloracetaldehyde (17.0 mL, 114.0 mmol) in EtOH (160 mL) was vigorously stirred and refluxed for 14 h. The reaction mixture was cooled to RT, concentrated under vacuum and the remaining residue was suspended in DCM (500 mL) and brine (100 mL). The aqueous layer was separated and extracted with DCM (5×), and the combined organic fractions were dried over Na2SO4, filtered, and evaporated. The residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, [hexane/DCM 1:1]/TBME 95:5→3:7) to yield the title compound (2.97 g, 13.4 mmol, 53%) as an orange solid. MS: 223 [M+1]+; HPLC: AtRet=0.54; TLC: RF 0.17 (hexane/DCM/TBME 1:1:2).

reactant | 2-amino-5-bromo-isonicotinonitrile | 25.3 mmol, 5.0 g | NC=1C=C(C#N)C(=CN1)Br | C6H4BrN3
reactant | NaHCO3 | 42.9 mmol, 3.6 g | C(=O)(O)[O-].[Na+]
reactant | chloracetaldehyde | 114.0 mmol, 17.0 mL | ClCC=O | C2H3ClO
solvent | EtOH | 160 mL | CCO | C2H6O
product | 6-Bromo-imidazo[1,2-a]pyridine-7-carbonitrile | 13.4 mmol, 2.97 g, 53% | BrC=1C(=CC=2N(C1)C=CN2)C#N | C8H4BrN3
